datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([O:10][H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[O:10][H:14])[H:4].[C:9]([H:11])([H:12])[H:13],177.877
[O:0][C:1]1([H:6])[C:2]([H:7])=[C:3]([H:8])[C:4]([H:9])=[C:5]1[H:10].[O:11][O:12]>>[H:6][O:11][O:12].[O:0]=[C:1]1[C:2]([H:7])=[C:3]([H:8])[C:4]([H:9])=[C:5]1[H:10],0.0
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7]=[C:8]([C:9]([S:10][H:13])[H:12])[H:11]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[S:7])[H:11])([S:10][H:13])[H:12],160.582
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([H:27])[H:28])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24](=[C:25]([H:27])[H:28])[H:26])[H:12],10.7529
[C:0](#[N:1])[H:2].[O:3][H:4]>>[C:0](=[N:1])([H:2])[O:3][H:4],22.3426
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]([S:15][H:18])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:16])([S:15][H:18])[H:17],72.9271
[C:0]([C:1](=[C:2]([H:7])[H:8])[C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])([H:5])[H:6]>>[C:0](=[C:1]=[C:2]([H:7])[H:8])([H:5])[H:6].[C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10],247.86016
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:13])[H:12],50.6682
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]=[C:7]([H:10])[H:11])([H:8])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:8])[H:4].[C:5](=[C:6]=[C:7]([H:10])[H:11])[H:9],78.6592
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[S:8]=[C:9][S:10][H:11]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9](=[S:8])[S:10][H:11],63.5968
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:7],-0.12552
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:19]([H:20])([H:21])[H:22])([H:9])([H:10])[H:11],24.0998
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][O:32],7.397312
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[S:12]([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:13])([H:5])([H:6])[H:7].[S:12][H:14],63.1784
[C:0]([C:1]([O:2][C:3](=[O:4])[O:5][C:6]([C:7]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([H:11])[H:12])([H:9])[H:10].[O:2]=[C:3]([O:4][H:8])[O:5][C:6]([C:7]([H:15])([H:16])[H:17])([H:13])[H:14],158.771
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14](=[S:15])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:19])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14](=[S:15])[H:21])[H:20])([H:16])([H:17])[H:18],91.4204
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:12][H:15],18.706664
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([O:8][H:11])([H:9])[H:10]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:11].[C:7](=[O:8])([H:9])[H:10],0.0
